US06472391B2
4-(6,7-Dimethoxy-4-quinolyl)-N-(4-phenoxyphenyl)-1-piperazinecarboxamide (Compound 407)
Substantially the same procedure as in Example 329 was repeated, except that 4-(6,7-dimethoxy-4-quinolyl)-1-piperazinecarboxylic acid tert-butyl ester obtained in Reference Example 17 was used in place of 4-(6,7-difluoro-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester, to give the desired compound.

reactant | 4-(6,7-dimethoxy-4-quinolyl)-1-piperazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=NC2=CC(=C(C=C12)OC)OC | C20H27N3O4
reactant | 4-(6,7-difluoro-4-quinazolinyl)-1-piperazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=NC2=CC(=C(C=C12)F)F | C17H20F2N4O2
product | 4-(6,7-Dimethoxy-4-quinolyl)-N-(4-phenoxyphenyl)-1-piperazinecarboxamide | Yield: 57% | COC=1C=C2C(=CC=NC2=CC1OC)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)OC1=CC=CC=C1 | C28H28N4O4
